US04535086
21.7 g of 2-acetyl-4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene are dissolved in 250 ml of ethanol and the solution is treated gradually with 5.5 g of sodium borohydride. The mixture is left to come to room temperature and is stirred for a further 2 hours. The mixture is poured on to ice, extracted with ether, the organic phase is washed once with saturated sodium chloride solution, dried and evaporated. The crude product is filtered over silica gel (eluting agent hexane/ether 3:1) and recrystallized from hexane. There are obtained 20.2 g of 4,5,6,7-tetrahydro-α,4,4,7,7-pentamethylbenzo[b]thiophene-methanol in the form of colorless crystals, m.p. 53°-55° C.

reactant | 2-acetyl-4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene | 21.7 g | C(C)(=O)C1=CC2=C(S1)C(CCC2(C)C)(C)C | C14H20OS
reactant | sodium borohydride | 5.5 g | [BH4-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4,5,6,7-tetrahydro-α,4,4,7,7-pentamethylbenzo[b]thiophene-methanol | 20.2 g | CC(O)C1=CC2=C(S1)C(CCC2(C)C)(C)C | C14H22OS
